US09024027B2
To a solution of methyl 2-(4-(N-(2-morpholinoethyl)methylsulfonamido)-1H-indol-1-yl)acetate (1.08 g, 2.73 mmol) in a 1/1 mixture of THF and water (30 ml), lithium hydroxide (0.654 g, 27.3 mmol) was added, and the mixture reacted for 1 hour at room temperature. The mixture was acidified with aqueous 12 N HCl (pH=5) and the desired compound was extracted with EtOAc (3×50 ml). The organic phase was dried over sodium sulfate and the solvent was removed; the residue was purified by flash chromatography (DCM/MeOH 9/1) recovering 2-(4-(N-(2-morpholinoethyl)-methylsulfonamido)-1H-indol-1-yl)acetic acid (650 mg, 1.704 mmol 62.4% yield, MS/ESI+ 381.9 [MH]+).

reactant | methyl 2-(4-(N-(2-morpholinoethyl)methylsulfonamido)-1H-indol-1-yl)acetate | 2.73 mmol, 1.08 g | O1CCN(CC1)CCN(S(=O)(=O)C)C1=C2C=CN(C2=CC=C1)CC(=O)OC | C18H25N3O5S
reactant | THF | C1CCOC1 | C4H8O
reactant | lithium hydroxide | 27.3 mmol, 0.654 g | [OH-].[Li+]
reactant | HCl | 12 N, pH=5 | Cl | ClH
solvent | water | 30 ml | O | H2O
product | 2-(4-(N-(2-morpholinoethyl)-methylsulfonamido)-1H-indol-1-yl)acetic acid | 1.704 mmol, 650 mg, 62.4% yield | O1CCN(CC1)CCN(S(=O)(=O)C)C1=C2C=CN(C2=CC=C1)CC(=O)O | C17H23N3O5S
